US05556857
5-Chloro-1-{3-[4-(3-nitrophenyl)-1-piperazinyl]propyl}-3,4-dihydrocarbostyril (3 g) was dissolved in 100 ml of ethanol, 2 ml of concentrated hydrochloric acid was added, and catalytic reduction was carried out at 3 atmospheres in the presence of 1.5 g of 5% palladium-carbon. The catalyst was then filtered off, the filtrate was concentrated under reduced pressure, and the residue was recrystallized from ethanol to give 2.5 g of 1-{3-[4-(3-aminophenyl)-1-piperazinyl]propyl}-5-chloro-3,4-dihydrocarbostyril as colorless needles.

reactant | 5-Chloro-1-{3-[4-(3-nitrophenyl)-1-piperazinyl]propyl}-3,4-dihydrocarbostyril | 3 g | ClC1=C2CCC(N(C2=CC=C1)CCCN1CCN(CC1)C1=CC(=CC=C1)[N+](=O)[O-])=O | C22H25ClN4O3
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 1.5 g | [C].[Pd]
product | 1-{3-[4-(3-aminophenyl)-1-piperazinyl]propyl}-5-chloro-3,4-dihydrocarbostyril | 2.5 g | NC=1C=C(C=CC1)N1CCN(CC1)CCCN1C(=O)CCC2=C(C=CC=C12)Cl | C22H27ClN4O
